US06569851B1
To a solution of 2-aza-2-benzyl-3-oxo-bicyclo[3,2,1]octane in THF was added 2.5 eq. of 1M t-BuOK/THF (Aldrich) and the resulting mixture was stirred for 30 minutes. Isoamyl nitrite (1.5 eq.) was then added dropwise and the reaction mixture was stirred overnight. To the reaction mixture was added 3N HCl and this mixture was extracted with ethyl acetate and the organic extracts washed with water, dried, and concentrated under reduced pressure. The residue was triturated with ether/hexanes, the solvents decanted and the residue dried under reduced pressure to afford 2-aza-2-benzyl-4-oximino-3-oxo-bicyclo[3,2,1]octane as a tan liquid (41% yield). This procedure is further described in Y. Kim, Tetrahedron Lett. 30(21), 2833-2636 (1989).

reactant | 2-aza-2-benzyl-3-oxo-bicyclo[3,2,1]octane | C(C1=NC=CC=C1)C1C2CCC(CC1=O)C2 | C14H17NO
reactant | t-BuOK THF | 1M, 2.5 eq. | CC(C)(C)[O-].[K+].C1CCOC1
reactant | Isoamyl nitrite | 1.5 eq. | N(=O)OCCC(C)C | C5H11NO2
reactant | HCl | 3N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-aza-2-benzyl-4-oximino-3-oxo-bicyclo[3,2,1]octane | 41% yield | C(C1=NC=CC=C1)C1C2CCC(C(C1=O)=NO)C2 | C14H16N2O2
